US07906677B2
(5-Ethyl-2-morpholin-4-yl-cyclohex-2-enylidene)-acetic acid ethyl ester
91.6 g of 4-Ethyl-cyclohexanone, 73.6 g of morpholine and 2 g of p-toluene-sulfonic acid monohydrate are dissolved in 400 ml of toluene. The mixture is heated to reflux and the water formed is removed by a water separator. After reacting for about 24 h, the reaction mixture is cooled to 100° C. and 2 g of p-toluene-sulfonic acid are added, followed by the addition of 157.22 g of glyoxylic acid ethyl ester during 30 minutes. The mixture is again heated to reflux for 5 hours and allowed to cool down to 22° C. The solvent is evaporated in vacuo and the crude product is distilled in vacuo at 140-150° C./9.5−2 mbar.

reactant | 4-Ethyl-cyclohexanone | 91.6 g | C(C)C1CCC(CC1)=O | C8H14O
reactant | morpholine | 73.6 g | N1CCOCC1 | C4H9NO
reactant | p-toluene-sulfonic acid monohydrate | 2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | (5-Ethyl-2-morpholin-4-yl-cyclohex-2-enylidene)-acetic acid ethyl ester | C(C)OC(C=C1C(=CCC(C1)CC)N1CCOCC1)=O | C16H25NO3
